US04665188
14.3 g of the above product was allowed to react using procedures analogous to those described in steps (5) and (6) of Referential Example 1 but using iodomethane instead of bromoethane to give an oily product containing a small amount of ethyl 5-(2-hydroxyethyl)-7,8-dihydro-2-naphthalenecarboxylate as a by-product. The product was dissolved in 10 ml of ethanol and 0.5 g of 10% palladium carbon was added thereto. The mixture was catalytically reduced. After absorption of hydrogen gas was completed, the catalyst was removed by filtration. The filtrate was concentrated in vacuo to give 1.4 g of ethyl 5-(2-hydroxyethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate as an oil.

reactant | iodomethane | IC | CH3I
reactant | ethyl 5-(2-hydroxyethyl)-7,8-dihydro-2-naphthalenecarboxylate | OCCC=1C=2C=CC(=CC2CCC1)C(=O)OCC | C15H18O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium carbon | 0.5 g | [C].[Pd]
product | ethyl 5-(2-hydroxyethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 1.4 g | OCCC1C=2C=CC(=CC2CCC1)C(=O)OCC | C15H20O3
